US06156757
A mixture of 1,2,3,4-tetrahydro-2-methyl-6-nitrobenzofuro[3,2-c]pyridine (0.0215 mol) and triethylamine (2 g) in THF (200 ml) was hydrogenated with palladium-on-charcoal catalyst 10% (2 g) as a catalyst in the presence of thiophene 4% (2 ml). After uptake of H2 (3 equivalents), the catalyst was filtered off and the filtrate was evaporated, yielding 4.2 g 1,2,3,4-tetrahydro-6-amino-2-methylbenzofuro[3,2-c]pyridine (interm. 7).

reactant | 1,2,3,4-tetrahydro-2-methyl-6-nitrobenzofuro[3,2-c]pyridine | 0.0215 mol | CN1CC2=C(CC1)OC1=C2C=CC=C1[N+](=O)[O-] | C12H12N2O3
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
reactant | thiophene | 2 ml | S1C=CC=C1 | C4H4S
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | 1,2,3,4-tetrahydro-6-amino-2-methylbenzofuro[3,2-c]pyridine | 4.2 g | NC1=CC=CC2=C1OC1=C2CN(CC1)C | C12H14N2O
